US07524856B2
8-Hydroxyquinolin-2(1H)-one
Quinolin-8-ol 1-oxide (20 g, 124 mmol) in acetic anhydride (200 ml) was stirred at 90° C. for 5 hours. Then the reaction mixture was poured into water/ice mixture (1.5 L), and made neutral by addition of conc. aq. NH3. The precipitate formed was collected by filtration and washed with water. The crude product was purified by suspending in propan-2-ol and addition of petroleum ether to give 2-oxo-1,2-dihydroquinolin-8-yl acetate. 2-Oxo-1,2-dihydroquinolin-8-yl acetate was heated in conc. aq. HCl (200 ml) at 90° C. for 4 hours. The reaction mixture was poured into ice-cold water (400 ml), and the precipitate formed was collected by filtration and washed with water. Recrystallization from propan-2-ol/petroleum ether afforded the subtitle compound (14.1 g, 70%).

reactant | 2-Oxo-1,2-dihydroquinolin-8-yl acetate | C(C)(=O)OC=1C=CC=C2C=CC(NC12)=O | C11H9NO3
solvent | HCl | 200 ml | Cl | ClH
product | 8-Hydroxyquinolin-2(1H)-one | 14.1 g, 70% | OC=1C=CC=C2C=CC(NC12)=O | C9H7NO2
